US08791235B2
a) Fmoc-Indanylglycine-Val-OAllyl
Fmoc Indanylglycine (0.54 g, 1.315 mmol) was solvated in CH2Cl2 (5 mL) and DMF (1.8 mL) followed with the addition of L-Val allylester (0.437 g, 1 eq), 4-methylmorpholine (0.15 ml, 1.04 eq) and 4 min latter DMAP (14.5 mg, 0.09 eq) then EDC (0.265 g, 1.05 eq). The mixture was stirred for 1 hour 45 min. Then it was extracted using EtOAc/brine. The organic layer was dried over MgSO4, filtered off and concentrated to dryness.

reactant | Fmoc Indanylglycine | 1.315 mmol, 0.54 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(CC(=O)O)C1CCC2=CC=CC=C12 | C26H23NO4
reactant | DMF | 1.8 mL | CN(C)C=O | C3H7NO
reactant | 4-methylmorpholine | 0.15 ml, 1.04 eq | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.265 g, 1.05 eq
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 14.5 mg, 0.09 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | Fmoc-Indanylglycine Val-OAllyl | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(CC(=O)O)C1CCC2=CC=CC=C12.N[C@@H](C(C)C)C(=O)OCC=C | InChI=1S/C26H23NO4.C8H15NO2/c28-25(29)15-27(24-14-13-17-7-1-2-8-18(17)24)26(30)31-16-23-21-11-5-3-9-19(21)20-10-4-6-12-22(20)23;1-4-5-11-8(10)7(9)6(2)3/h1-12,23-24H,13-16H2,(H,28,29);4,6-7H,1,5,9H2,2-3H3/t;7-/m.0/s1
